US05399578
(S)-N-(1-Hydroxymethyl-2-methyl-prop-1-yl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine
0.8 g of N-valeryl-N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-(L)-valine methyl ester is dissolved in 30 ml of THF, treated at 5° C. with 83 mg of lithium borohydride and stirred at room temperature for 24 h. The reaction mixture is then concentrated, treated with water and adjusted to pH 2 with hydrochloric acid, a white precipitate forming. The mixture is extracted with ethyl acetate, washed with water and brine, dried and finally separated by means of flash chromatography (CH2Cl2 -MeOH 5:1). FAB-MS: m/e=422 (M+H)+.

reactant | N-valeryl-N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-(L)-valine methyl ester | 0.8 g | COC([C@@H](N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(CCCC)=O)C(C)C)=O | C25H31N5O3
reactant | lithium borohydride | 83 mg | [BH4-].[Li+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (S)-N-(1-Hydroxymethyl-2-methyl-prop-1-yl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine | OC[C@H](C(C)C)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(CCCC)=O | C24H31N5O2
